US07531532B2
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (33 mg) was dissolved in tetrahydrofuran (1 ml) and methanol (1 ml), and then 10% palladium carbon (17 mg) was added thereto, followed by stirring under a hydrogen atmosphere for 5 hrs. The reaction mixture was filtered to remove the catalyst, and the catalyst was washed with methanol. The filtrate was concentrated under reduced pressure to give a crude product of 4-(azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (30 mg) as a pale yellow oil.

reactant | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 33 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCC2)C=CC(=C1)[N+](=O)[O-] | C21H24FN5O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
catalyst | palladium carbon | 17 mg | [C].[Pd]
product | 4-(azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 30 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCC2)C=C1)F | C21H26FN5O2
